US08530491B2
a) 6-(3-Ethoxycarbonylpropoxy)-2-methylquinolin-4-ol
To a stirring mixture of ethyl 4-(4-aminophenoxy)butanoate (3.12 g, 14 mmol) and acetoacetic ester (1.82 g, 14 mmol) was added a catalytic amount of hydrochloric acid and cyclized in refluxing diphenyl ether as described in Example 5a. The product was obtained as a light yellow solid (1.70 g, 42%). 1H NMR (400 MHz, DMSO-d6): 1.32 (3H, t, J=7.1 Hz), 2.15 (2H, m), 2.50 (3H, s), 2.62 (2H, t, J=7.3 Hz), 4.21 (4H, m), 6.09 (1H, s), 7.42 (1H, dd, J=9.0, 2.7 Hz), 7.58 (1H, d, J=2.7 Hz), 7.65 (1H, d, J=9.0 Hz), 11.8 (1H, s).

reactant | ethyl 4-(4-aminophenoxy)butanoate | 14 mmol, 3.12 g | NC1=CC=C(OCCCC(=O)OCC)C=C1 | C12H17NO3
reactant | hydrochloric acid | Cl | ClH
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-(3-Ethoxycarbonylpropoxy)-2-methylquinolin-4-ol | 1.70 g, 42% | C(C)OC(=O)CCCOC=1C=C2C(=CC(=NC2=CC1)C)O | C16H19NO4
